US03961937
1-BENZYLOXY-6-CHLORO-2-(TRIFLUOROMETHYL)-1H- IMIDAZO(4,5-b)PYRIDINE
1-Hydroxy-6-chloro-2 -(trifluoromethyl)-1H-imidazo-(4,5-b)pyridine (5 grams), 10 milliliters of benzyl bromide, 20 grams of anhydrous potassium carbonate, and 100 milliliters of ethanol were mixed, heated to reflux, and refluxed for 1 hour. The reaction mixture was then filtered, evaporated under vacuum, and extracted with diethyl ether. The extract was filtered and evaporated under vacuum yielding a dark oil which on standing crystallized as the desired 1-benzyloxy-6-chloro-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine. It was recrystallized from a mixture of acetone and petroleum ether boiling at 60°-80°C., m.p., 107°-09°C.

reactant | 1-Hydroxy-6-chloro-2 -(trifluoromethyl)-1H-imidazo-(4,5-b)pyridine | 5 grams | ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C7H3ClF3N3O
reactant | benzyl bromide | 10 milliliters | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 20 grams | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 milliliters | C(C)O | C2H6O
product | 1-BENZYLOXY-6-CHLORO-2-(TRIFLUOROMETHYL)-1H- IMIDAZO(4,5-b)PYRIDINE | C(C1=CC=CC=C1)ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C14H9ClF3N3O
